US06777557B2
1-(2-ethoxy-2-oxoethyl)-2-(1-hydroxyethyl)thiazolium bromide
A mixture of 1-(2-thiazolyl)ethanol (1.17 g, 8.67 mmole) and ethyl bromoacetate (1.32 g, 8.63 mmole) was heated at 48 C. for 18 hr. The reaction mixture was dissolved in acetonitrile (3 mL) and stored at 4 C. After 2 months the crystals which separated were filtered out and washed with 3:7 ether-acetonitrile to yield 2.028 g of the title compound, mp 101-103 C.

reactant | 1-(2-thiazolyl)ethanol | 8.67 mmole, 1.17 g | S1C(=NC=C1)C(C)O | C5H7NOS
reactant | ethyl bromoacetate | 8.63 mmole, 1.32 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(2-ethoxy-2-oxoethyl)-2-(1-hydroxyethyl)thiazolium bromide | 2.028 g | [Br-].C(C)OC(CS1C(=[NH+]C=C1)C(C)O)=O | InChI=1S/C9H15NO3S.BrH/c1-3-13-8(12)6-14-5-4-10-9(14)7(2)11;/h4-5,7,11,14H,3,6H2,1-2H3;1H
